US07989463B2
Step (iii-b): Synthesis of 1-(4-amino-phenyl)cyclopentanecarboxylic acid methyl ester
Sodium hydride (2.8 g, 60% dispersion in mineral oil) was added slowly to a solution of (4-nitro-phenyl)-acetic acid methyl ester (6.0 g, 30.7 mmol) in anhydrous DMF (30 mL) under nitrogen at a temperature in the range of 0° C. to 10° C. After stirring at a temperature in the range of 0° C. to 10° C. for 20 min, diiodobutane (7.86 mL, 61 mmol) was added drop-wise under stirring. After complete addition, the reaction mixture was warmed to a temperature in the range of 15° C. to 40° C. and stirring continued for an additional 3 hours. The reaction was quenched by adding water slowly. The mixture was extracted by ethyl acetate (3×40 mL). The combined organic extracts were washed with water, brine, dried over Na2SO4, filtered, and concentrated under reduced pressure. The resultant gummy material was purified by column chromatography over silica gel to afford a pale yellow thick liquid which solidified on standing at a temperature in the range of 15° C. to 40° C. (4.1 g, 54% yield). The solid (3.4 g, 13.6 mmol) was dissolved in anhydrous EtOH and tin chloride dihydrate (13.86 g, 61 mmol) was added slowly under nitrogen. Thereafter, the mixture was heated at 90° C. for 3 hours. After evaporation of volatiles under reduced pressure, the resultant mixture was diluted with ice-water and aqueous sodium hydroxide was added to adjust pH ˜11. The mixture was extracted with ethyl acetate (3×50 mL). The combined organic extracts were washed with water, brine, dried over Na2SO4, filtered, and the filtrate was concentrated under reduced pressure to afford the title compound as a granular light yellow solid (2.67 g, 88% yield).

reactant | Sodium hydride | 2.8 g | [H-].[Na+]
reactant | (4-nitro-phenyl)-acetic acid methyl ester | 30.7 mmol, 6.0 g | COC(CC1=CC=C(C=C1)[N+](=O)[O-])=O | C9H9NO4
reactant | diiodobutane | 61 mmol, 7.86 mL | IC(C)C(C)I | C4H8I2
reactant | tin chloride dihydrate | 61 mmol, 13.86 g | O.O.[Sn](Cl)(Cl)(Cl)Cl
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | EtOH | CCO | C2H6O
product | 1-(4-amino-phenyl)cyclopentanecarboxylic acid methyl ester | 2.67 g, 88% yield | COC(=O)C1(CCCC1)C1=CC=C(C=C1)N | C13H17NO2
